US06972288B1
4-[(3-Chloro-4-fluoro-phenyl)amino]-6-[(4-{4-[2-(ethoxycarbonyl)-ethyl]-piperazin-1-yl}-1-oxo-2-buten-1-yl)amino]-7-cyclopropylmethoxy-quinazoline
A mixture of 200 mg of 4-[(3-chloro-4-fluoro-phenyl)amino]-6-{[4-(piperazin-1-yl)-1-oxo-2-buten-1-yl]amino}-7-cyclopropylmethoxy-quinazoline and 0.11 ml of ethyl acrylate in 2 ml of ethanol is heated under reflux for one hour. The solvent is evaporated in vacuo and the crude product is purified by column chromatography on silica gel with methylene chloride/methanol (95:5 to 90:10) followed by recrystallization from diethyl ether. Yield: 164 mg (69% of theory), Melting point: 183-185° C. Mass spectrum (ESI−): m/z=609, 611 [M−H]−

reactant | 4-[(3-chloro-4-fluoro-phenyl)amino]-6-{[4-(piperazin-1-yl)-1-oxo-2-buten-1-yl]amino}-7-cyclopropylmethoxy-quinazoline | 200 mg | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCN1CCNCC1)=O)OCC1CC1 | C26H28ClFN6O2
reactant | ethyl acrylate | 0.11 ml | C(C=C)(=O)OCC | C5H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4-[(3-Chloro-4-fluoro-phenyl)amino]-6-[(4-{4-[2-(ethoxycarbonyl)-ethyl]-piperazin-1-yl}-1-oxo-2-buten-1-yl)amino]-7-cyclopropylmethoxy-quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCN1CCN(CC1)CCC(=O)OCC)=O)OCC1CC1 | C31H36ClFN6O4
